US08497278B2
1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-3-methylpyrimidine-2,4(1H,3H)-dione (125)
The title compound was prepared according to Method B and the experimentals described for compound 92 from 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride and 3-methylpyrimidine-2,4(1H,3H)-dione. M/e+ 367 for C19H16ClN4O2 (M+H)+; 1H-NMR (400 MHz, CDCl3) δ 8.22 (d, J=5.8 Hz, 1H), 7.66 (d, J=8.4 Hz, 2H), 7.45 (d, J=8.4 Hz, 2H), 7.30 (m, 1H), 6.91 (t, J=6.6 Hz, 1H), 6.63 (d, J=8.0 Hz, 1H), 5.56 (d, J=8.0 Hz, 1H), 5.45 (s, 2H), 5.26 (d, J=0.7 Hz, 1H), 3.34 (s, 3H) ppm.

reactant | 3-(chloromethyl)-2-(4-chlorophenyl)imidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl
reactant | 3-methylpyrimidine-2,4(1H,3H)-dione | CN1C(NC=CC1=O)=O | C5H6N2O2
product | 1-((2-(4-chlorophenyl)imidazo[1,2-a]pyridin-3-yl)methyl)-3-methylpyrimidine-2,4(1H,3H)-dione | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CN1C(N(C(C=C1)=O)C)=O | C19H15ClN4O2
